US07060721B1
To a solution of 5-chloro-2-methylimidazole-4-carbaldehyde (433 mg) in N,N-dimethylformamide (4.3 ml) were added potassium carbonate powder (616 mg) and 2-chloro-4-iodobenzyl bromide (1.2 equivalents) under ice-cooling and the mixture was stirred at room temperature for 2.5 hr. To the reaction mixture were added water and saturated brine, and the resulting product was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give 4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazole-5-carbaldehyde (1.01 g) as a white powder.

reactant | 5-chloro-2-methylimidazole-4-carbaldehyde | 433 mg | ClC1=C(N=C(N1)C)C=O | C5H5ClN2O
reactant | potassium carbonate | 616 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-iodobenzyl bromide | 1.2 equivalents | ClC1=C(CBr)C=CC(=C1)I | C7H5BrClI
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4.3 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazole-5-carbaldehyde | 1.01 g | ClC=1N=C(N(C1C=O)CC1=C(C=C(C=C1)I)Cl)C | C12H9Cl2IN2O
